US04781750
Preparation of N,N-Dimethyl-Alpha-Cyano-BetaHydroxy-2-Nitro-4-Trifluoromethylcinnamamide
To a well stirred solution of 5.0 g of N,N-dimethylcyanoacetamide, 8 ml of triethylamine, and 0.05 g of p-dimethylaminopyridine dissolved in 8 ml of dry THF was added 10 g of 2-nitro-4-trifluoromethylbenzoyl chloride dissolved in a min. amount of THF at such a rate that the reaction temperature did not exceed 45° C. The reaction was stirred overnight, at which time TLC analysis indicated that the reaction was complete. The reaction was worked up by removing the solvents under reduced pressure, diluting the residue with 15% NaOH, and extracting well with ether. The aqueous phase was acidified and extracted with 2×100 ml of CH2Cl2. The combined CH2Cl2 extracts were washed once with saturated brine, dried over molecular sieves, filtered, and then passed through a short column of silica gel. The eluate was concentrated under reduced pressure to yield 9.8 g of an orange oil that solidified upon standing. The impure solid was crystallized from ether/hexane to yield 4.24 g of the product, m.p. 104°-6° C.

reactant | N,N-dimethylcyanoacetamide | 5.0 g | CN(C(CC#N)=O)C | C5H8N2O
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-nitro-4-trifluoromethylbenzoyl chloride | 10 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF3NO3
catalyst | p-dimethylaminopyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | N,N-Dimethyl-Alpha-Cyano-BetaHydroxy-2-Nitro-4-Trifluoromethylcinnamamide | 9.8 g | CN(C(C(=C(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])O)C#N)=O)C | C13H10F3N3O4
